US07060710B2
3-(5-Methyl-3-phenylisoxazol-4-yl)-2,4-dihydroindeno[1,2-c]pyrazole-6-carbonitrile
A suspension of 6-bromo-3-(5-methyl-3-phenylisoxazol-4-yl)-1,4-dihydroindeno[1,2-c]pyrazole (500 mg, 1.3 mmol) (prepared from 5-bromoindane in the same manner as Example 1) and zinc cyanide (912 mg, 7.8 mmol) in DMF (5 ml) was degassed with N2 for 0.5 hr, tetrakis(triphenylphosphine)palladium(0) (100 mg) was added and heated to 80° C. for 3 days. The reaction mixture was cooled, poured into 10% ammonium hydroxide solution and extracted into EtOAc. The organic layer was washed with H2O(×3) then dried (MgSO4), evaporated and the residue chromatographed on silica, eluting with dichloromethane and recrystallised from hot dichloromethane to give the title compound as a white solid (55 mg, 13%). 1H NMR (400 MHz, CDCl3) δ 7.84 (d, J=8.4 Hz, 1H), 7.68 (d, J=7.6 Hz, 2H), 7.51–7.37 (m, 5H), 3.35 (s, 2H), 2.59 (s, 3H), m/z (ES+) 339 (M+H)+.

reactant | 6-bromo-3-(5-methyl-3-phenylisoxazol-4-yl)-1,4-dihydroindeno[1,2-c]pyrazole | 1.3 mmol, 500 mg | BrC=1C=C2CC3=C(NN=C3C=3C(=NOC3C)C3=CC=CC=C3)C2=CC1 | C20H14BrN3O
reactant | 5-bromoindane | BrC=1C=C2CCCC2=CC1 | C9H9Br
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 7.8 mmol, 912 mg | [C-]#N.[Zn+2].[C-]#N
product | 3-(5-Methyl-3-phenylisoxazol-4-yl)-2,4-dihydroindeno[1,2-c]pyrazole-6-carbonitrile | 55 mg, 13% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=C2C(=NN1)C1=CC=C(C=C1C2)C#N | C21H14N4O
